US04886798
(8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine hydrochloride suspended in 50 ml of ethyl acetate is stirred with excess dilute aqueous potassium carbonate solution until the salt is completely dissolved. The organic layer is then separated, washed twice with water, dried over magnesium sulfate and evaporated to yield (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine, m.p. 165°-166° C.

reactant | (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine hydrochloride | Cl.COC1=CC=2CCN3C[C@H]4CCCN([C@H]4C[C@H]3C2C=C1)S(=O)(=O)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine | COC1=CC=2CCN3C[C@H]4CCCN([C@H]4C[C@H]3C2C=C1)S(=O)(=O)C | C18H26N2O3S
